US07759376B2
Step 1. Preparation of methyl 3′-fluoro-4′-[(6-fluoro-1,3-benzothiazol-2-yl)amino]-3-methylbiphenyl-4-carboxylate
As shown in Reaction Scheme 6, a mixture of bis(pinacolato)diboron (0.55 g, 2.2 mmol), methyl 4-bromo-2-methylbenzoate (0.50 g, 2.2 mmol), palladium(II) acetate (0.01 g, 0.07 mmol), and KOAc (0.64 g, 6.6 mmol) in DMF (7.5 mL) was degassed with argon for 30 min at rt. The mixture was then heated at 80° C. for 4 h. After cooling the mixture to rt, N-(4-bromo-2-fluorophenyl)-6-fluoro-1,3-benzothiazol-2-amine (0.74 g, 2.2 mmol), tetrakis(triphenylphosphine)palladium(0) (0.08 g, 0.07 mmol), and saturated aqueous NaHCO3 (5 mL) were added. The mixture was heated at 85° C. overnight. The mixture was poured into ice water and extracted with EtOAc. The combined organic phases were dried over Na2SO4, concentrated in vacuo, and purified by column chromatography (20% EtOAc in hexanes). This yielded 0.345 g (39%) of the title compound. LC/MS m/z 411.3 (MH+; retention time 4.15 min. 1H NMR (400 MHz, CD2Cl2) 2.62 (s, 3H), 3.90 (s, 3H), 7.10 (t, 1H), 7.39-7.53 (m, 5H), 7.62-7.70 (m, 1H), 7.99 (d, 1H), 8.58 (t, 1H).

reactant | bis(pinacolato)diboron | 2.2 mmol, 0.55 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | methyl 4-bromo-2-methylbenzoate | 2.2 mmol, 0.50 g | BrC1=CC(=C(C(=O)OC)C=C1)C | C9H9BrO2
reactant | KOAc | 6.6 mmol, 0.64 g | CC(=O)[O-].[K+]
reactant | N-(4-bromo-2-fluorophenyl)-6-fluoro-1,3-benzothiazol-2-amine | 2.2 mmol, 0.74 g | BrC1=CC(=C(C=C1)NC=1SC2=C(N1)C=CC(=C2)F)F | C13H7BrF2N2S
reactant | NaHCO3 | 5 mL | C(=O)(O)[O-].[Na+]
solvent | DMF | 7.5 mL | CN(C)C=O | C3H7NO
catalyst | palladium(II) acetate | 0.07 mmol, 0.01 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.07 mmol, 0.08 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | methyl 3′-fluoro-4′-[(6-fluoro-1,3-benzothiazol-2-yl)amino]-3-methylbiphenyl-4-carboxylate | FC=1C=C(C=CC1NC=1SC2=C(N1)C=CC(=C2)F)C2=CC(=C(C=C2)C(=O)OC)C | C22H16F2N2O2S
